US07981903B2
A solution of 2-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (425 mg, 1.62 mmol) in methanol (5 mL) was treated with 1-isopropylpiperzine (1.0 mL, 7.0 mmol, Oakwood Products) and heated at 65° C. in a sealed tube for 16 h. The mixture was cooled, concentrated, and partitioned between ethyl acetate and saturated aqueous ammonium chloride. The organic layer was separated, dried over magnesium sulfate, filtered, and purified by chromatography on SiO2 (dichloromethane to 25% methanol/dichloromethane) to give 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (285 mg, 0.731 mmol, 45%). ESIMS (M+H)+=391.

reactant | 2-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.62 mmol, 425 mg | C(C=C)(=O)N1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C13H14N2O4
reactant | 1-isopropylpiperzine | 7.0 mmol, 1.0 mL | C(C)(C)N1CCNCC1 | C7H16N2
solvent | methanol | 5 mL | CO | CH4O
product | 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 0.731 mmol, 285 mg, 45% | CC(C)N1CCN(CC1)CCC(=O)N1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C20H30N4O4
